US20010018525A1
To a flame-dried flask containing dodecyl amine (0.278 g, 1.5 mmol) in THF (5 mL) cooled to −78° C. was added n-BuLi (titrated to 2.37 M in hexanes) (0.670 mL, 1.59 mmol) dropwise. The solution was stirred at −78° C. for 20 min. and then warmed to room temperature over 20 min. The reaction was then recooled to −40° C. and 3,5-bis-(m-trifluoromethylphenyl)-4-(2-hydroxyethoxy)benzoic acid ethyl ester (0.215 g, 0.43 mmol) in THF (5 mL) was added. This mixture was allowed to warm to room temperature over 20 min. The reaction mixture was then poured into 0.1 N HCl solution and extracted with EtOAc. The combined organic layers were washed with 2 N HCl solution (3×), dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography (30% EtOAc:hexane) to afford N-dodecyl-3,5-bis(m-trifluoromethylphenyl)-4-(2-hydroxyethoxy)benzamide (0.254 g, 93%) as a white solid. 1H NMR (CDCl3) δ7.90 (m, 2H); 7.82-7.76 (m, 4H); 7.65-7.56 (m, 4H); 6.22 (bt, 1H); 3.45 (dd, 2H); 3.30 (m, 4H); 1.60 (m, 2H); 1.25 (m, 18H); 0.84 (m, 3H).

reactant | dodecyl amine | 1.5 mmol, 0.278 g | C(CCCCCCCCCCC)N | C12H27N
reactant | n-BuLi | 1.59 mmol, 2.37 M, 0.670 mL | [Li]CCCC
reactant | 3,5-bis-(m-trifluoromethylphenyl)-4-(2-hydroxyethoxy)benzoic acid ethyl ester | 0.43 mmol, 0.215 g | C(C)OC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)OCCO)C1=CC(=CC=C1)C(F)(F)F)=O | C25H20F6O4
reactant | HCl | 0.1 N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-dodecyl-3,5-bis(m-trifluoromethylphenyl)-4-(2-hydroxyethoxy)benzamide | 0.254 g, 93% | C(CCCCCCCCCCC)NC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)OCCO)C1=CC(=CC=C1)C(F)(F)F)=O | C35H41F6NO3
